US04673746
3-(2-fluorophenyl)-7-iodo-6-methoxy-1,2-benzisoxazole (8.2 g) is refluxed 18 hours in 130 ml of CH2Cl2 containing 6.6 ml of BBr3. The reaction mixture is poured into H2O and extracted into ether. Drying and evaporation gives a crystalline product that is triturated well with hexane to yield 3-(2-fluorophenyl)-6-hydroxy-7-iodo-1,2-benzisoxazole, mp 212°-214° C.

reactant | 3-(2-fluorophenyl)-7-iodo-6-methoxy-1,2-benzisoxazole | 8.2 g | FC1=C(C=CC=C1)C1=NOC2=C1C=CC(=C2I)OC | C14H9FINO2
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | H2O | O | H2O
solvent | CH2Cl2 | 130 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-fluorophenyl)-6-hydroxy-7-iodo-1,2-benzisoxazole | FC1=C(C=CC=C1)C1=NOC2=C1C=CC(=C2I)O | C13H7FINO2
